US03988368
In a 100 cc autoclave, 42.35 g (0.25 mole) of thiophosphoryl trichloride, 19.53 g (0.25 mole) of benzene were charged, and the mixture was heated with stirring at 200° C for 4 hours. The reaction mixture was treated in accordance with the process of Example 1. No phenylphosphonothioic dichloride was produced.

reactant | thiophosphoryl trichloride | 0.25 mole, 42.35 g | P(=S)(Cl)(Cl)Cl | Cl3PS
reactant | benzene | 0.25 mole, 19.53 g | C1=CC=CC=C1 | C6H6
product | phenylphosphonothioic dichloride | C1(=CC=CC=C1)P(=S)(Cl)Cl | C6H5Cl2PS
